US04608379
1-Dodecyl-2-methylpyridinium bromide (3.42 g), 0.01 mole) and 4-diethylaminobenzaldehyde (1.9 g), 0.011 mole) were refluxed in ethanol (15 ml) in the presence of piperidine (0.2 ml) under nitrogen for two hours. The solution was cooled and ether was added when an orange solid crystallised which was collected giving 2-[4-(diethylamino)styryl]-1-dodecylpyridinium bromide hemihydrate, (2.1 g), melting point 199°-200° C.

reactant | 1-Dodecyl-2-methylpyridinium bromide | 3.42 g | [Br-].C(CCCCCCCCCCC)[N+]1=C(C=CC=C1)C
reactant | 4-diethylaminobenzaldehyde | 1.9 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-[4-(diethylamino)styryl]-1-dodecylpyridinium bromide hemihydrate | 2.1 g | O.[Br-].C(C)N(C1=CC=C(C=CC2=[N+](C=CC=C2)CCCCCCCCCCCC)C=C1)CC.C(C)N(CC)C1=CC=C(C=CC2=[N+](C=CC=C2)CCCCCCCCCCCC)C=C1.[Br-] | InChI=1S/2C29H45N2.2BrH.H2O/c2*1-4-7-8-9-10-11-12-13-14-16-25-31-26-17-15-18-28(31)22-19-27-20-23-29(24-21-27)30(5-2)6-3;;;/h2*15,17-24,26H,4-14,16,25H2,1-3H3;2*1H;1H2/q2*+1;;;/p-2
